US07592373B2
2.4.a. 3-[4-(2-pyrrolidin-1-ylethyl)phenyl]propynoic acid-(4-prop-1-ynylphenyl)amide
Prepared analogously to Example 2.1.e. from propynoic acid-(4-prop-1-ynylphenyl)amide and 1-[2-(4-iodophenyl)ethyl]pyrrolidine. Yield: 20 mg (11% of theory); melting point: 198° C.-199° C.; C24H24N2O (M=356.47); Rf value: 0.1 (silica gel, dichloromethane/methanol (10:1))

reactant | propynoic acid-(4-prop-1-ynylphenyl)amide | C(#CC)C1=CC=C(C=C1)NC(C#C)=O | C12H9NO
reactant | 1-[2-(4-iodophenyl)ethyl]pyrrolidine | IC1=CC=C(C=C1)CCN1CCCC1 | C12H16IN
solvent | dichloromethane methanol | ClCCl.CO
product | 3-[4-(2-pyrrolidin-1-ylethyl)phenyl]propynoic acid-(4-prop-1-ynylphenyl)amide | C(#CC)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CCN1CCCC1)=O | C24H24N2O
